US04935508
Ethyl (Z)-2-(2-Aminothiazol-4-yl)-2-trityloxyiminoacetate
Sodium hydride (60% dispersion in mineral oil, 13.2 g, 0.33 mol) was added portionwise to a cold (0° C.) mixture of ethyl (Z)-(2-aminothiazol-4-yl)-2-hydroxyiminoacetate (64.5 g, 0.3 mol) in dry THF (1 L) with vigorous stirring and the mixture was stirred for 0.5 hr. at room temperature. To the mixture was added a solution of trityl chloride (92.0 g, 0.33 mol) in dry THF (0.2 L) with cooling and stirring. The mixture was stirred for 2 hr. at ambient temperature and evaporated under reduced pressure. Chloroform (1 L) was added to the residue and the mixture was washed with water. The insoluble material was filtered and the organic layer of the filtrate was separated. The insoluble material was extracted again with a mixture of chloroform (300 ml) and methanol (50 ml) by sonication for 10 min. and subsequent filtration. The extract was combined with the separated organic layer and evaporated under reduced pressure. The residue was triturated with toluene (0.3 L) to crystallize the product as colorless prisms, which were collected by filtration, washed with a small toluene and dried in vacuo. Yield, 91.2 g (66%). The filtrate was evaporated and treated with toluene to give 19.2 g of the second crop.

reactant | Sodium hydride | 0.33 mol, 13.2 g | [H-].[Na+]
reactant | ethyl (Z)-(2-aminothiazol-4-yl)-2-hydroxyiminoacetate | 0.3 mol, 64.5 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O | C7H9N3O3S
reactant | trityl chloride | 0.33 mol, 92.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | THF | 0.2 L | C1CCOC1 | C4H8O
product | Ethyl (Z)-2-(2-Aminothiazol-4-yl)-2-trityloxyiminoacetate | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H23N3O3S
